US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(5-nitro-furan-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and 5-nitro-2-furaldehyde (59 μL, 0.56 mmol) similar to Example 3 and isolated as a dark yellow solid (4 mg, 2%). 1H NMR (CDCl3): 10.02 (s, 1H), 7.74 (s, 1H), 7.50 (d, J=7.2 Hz, 1H), 7.39 (d, J=3.9 Hz, 1H), 6.88 (d, J=3.9, 1H), 6.26-6.14 (m, 2H), 4.26-4.22 (m, 1H), 3.07 (s, 1H), 2.99 (s, 1H), 1.94-1.87 (m, 1H), 1.68 (d, J=9.3 Hz, 1H), 1.51 (d, J=9.0 Hz, 1H), 1.48-1.42 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 5-nitro-2-furaldehyde | 0.56 mmol, 59 μL | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(5-nitro-furan-2-ylmethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC=2OC(=CC2)[N+](=O)[O-])=S | C13H14N4O3S
